US07488789B2
(1) Synthesis of 3-tert-butyl-1-methyl-6,6-di(4-chloro-phenyl)fulvene
In a 200 ml three-necked flask equipped with a magnetic stirrer chip and three-way cock thoroughly purged with nitrogen, 0.65 g of powdery potassium hydroxide (13.0 mmol) and 70 ml of dehydrated dimethoxy ethane were added in a nitrogen atmosphere. To the suspension, 1.24 g of 3-tert-butyl-1-methyl-cyclopentadiene (9.11 mmol) was added dropwise at room temperature and then 2.40 g of 4,4′-dichloro-benzophenone (9.58 mmol) was added and stirred under reflux for 3 days. To a 30 ml of a hydrochloric acid aqueous solution (1N) set in an ice bath, the reaction mixture was gradually added dropwise and stirred for some time. Diethyl ether was added to the mixed solution to separate an organic phase. The organic phase was washed with a saturated sodium bicarbonate aqueous solution, water and saturated brine. The organic phase was dried with anhydrous magnesium sulfate, thereafter the drying agent was filtered off and the solvent was distilled off from the filtrate under reduced pressure to give a reddish-orange solid. The solid was purified with a column chromatography using 110 g of silica gel (developing solvent: n-hexane) and the developing solvent was distilled off under reduced pressure, and thereby the aimed compound was obtained in an amount of 2.79 g (7.56 mmol) as a red solid (yield: 83%).

reactant | potassium hydroxide | 13.0 mmol, 0.65 g | [OH-].[K+]
reactant | 3-tert-butyl-1-methyl-cyclopentadiene | 9.11 mmol, 1.24 g | C(C)(C)(C)C=1C=C(CC1)C | C10H16
reactant | 4,4′-dichloro-benzophenone | 9.58 mmol, 2.40 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H8Cl2O
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | Diethyl ether | C(C)OCC | C4H10O
solvent | dimethoxy ethane | 70 ml | C(OC)COC | C4H10O2
product | 3-tert-butyl-1-methyl-6,6-di(4-chloro-phenyl)fulvene | C(C)(C)(C)C=1C=C(C(C1)=C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C | C23H22Cl2
